US07700634B2
Ethylchloroacetate (0.15 ml, 1.37 mmol), potassium carbonate (416 mg, 1.5 mmol) and 2,2-dimethyl-pyrolidine (0.280 mg, 2.06 mmol) were suspended in ethanol (3 ml) and subjected to microwave irradiation at 120° C. for 45 min. The resultant mixture was suspended in diethyl ether (30 ml), extracted with 2M hydrochloric acid (30 ml) and the organic layer discarded. The aqueous layer was treated with a slight excess of 4N sodium hydroxide solution and extracted with diethyl ether (3×30 ml). The organic layers were combined, dried over sodium sulfate, filtered and solvent removed under reduced pressure to afford (2,2-dimethyl-pyrrolidin-1-yl)-acetic acid ethyl ester (156 mg).

reactant | Ethylchloroacetate | 1.37 mmol, 0.15 ml | C(C)OC(CCl)=O | C4H7ClO2
reactant | potassium carbonate | 1.5 mmol, 416 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-dimethyl-pyrolidine | 2.06 mmol, 0.280 mg | CC1(NCCC1)C | C6H13N
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | (2,2-dimethyl-pyrrolidin-1-yl)-acetic acid ethyl ester | 156 mg | C(C)OC(CN1C(CCC1)(C)C)=O | C10H19NO2
